US05969155
In addition to the NLO materials β-N,N-Dimethylamino-2,4,6-trinitrostyrene and β-N,N-Dimethylamino-2-amino-4,6-dinitrostyrene mentioned hereinbelow, reaction of TNT with 4-dimethylaminobenzaldehyde in place of dimethylformamide dimethylacetal yields β-[4-(N,N-Diethylamino)phenyl]-2,4,6-trinitrostyrene.

reactant | β-N,N-Dimethylamino-2,4,6-trinitrostyrene | CN(C)C=CC1=C(C=C(C=C1[N+](=O)[O-])[N+](=O)[O-])[N+](=O)[O-] | C10H10N4O6
reactant | β-N,N-Dimethylamino-2-amino-4,6-dinitrostyrene | CN(C)C=CC1=C(C=C(C=C1[N+](=O)[O-])[N+](=O)[O-])N | C10H12N4O4
reactant | TNT | CC1=C(C=C(C=C1[N+](=O)[O-])[N+](=O)[O-])[N+](=O)[O-] | C7H5N3O6
reactant | 4-dimethylaminobenzaldehyde | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
product | β-[4-(N,N-Diethylamino)phenyl]-2,4,6-trinitrostyrene | C(C)N(CC)C1=CC=C(C=C1)C=CC1=C(C=C(C=C1[N+](=O)[O-])[N+](=O)[O-])[N+](=O)[O-] | C18H18N4O6
